US08530667B2
To a stirred solution of 2-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-cyclopent-4-ene-1,3-dione (248 mg, 0.78 mmol) in furan (3 ml) is added magnesium iodide (44 mg, 0.15 mmol) and the reaction allowed to stir at room temperature for 4 days. The crude reaction mixture is purified by flash chromatography to give 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione as a white solid (180 mg).

reactant | 2-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-cyclopent-4-ene-1,3-dione | 0.78 mmol, 248 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C=CC1=O)=O | C17H13ClO2S
reactant | magnesium iodide | 0.15 mmol, 44 mg | [I-].[Mg+2].[I-]
reactant | furan | 3 ml | O1C=CC=C1 | C4H4O
product | 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione | 180 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C2C3C=CC(C2C1=O)O3)=O | C21H17ClO3S
